US04492691
457.8 g of the crude 2-(4-bromophenoxy)benzyl bromide are added over a period of one hour to a mixture that is boiling under reflux of 171.0 g of sodium cyanide in 160 ml of water and 44 ml of ethanol; at the same time 362 ml of ethanol are added dropwise. The mixture is subsequently boiled under reflux for a further 3 hours and then diluted with 1500 ml of water. The aqueous ethanolic phase is washed with 1000 ml of diethyl ether and the ether phase is separated off, washed twice with 200 ml of water, dried over magnesium sulphate and concentrated to dryness under 11 mm Hg. The residue is crystallised from a mixture of diethyl ether and petroleum ether and yields 2-(4-bromophenoxy)phenyl acetonitrile.

reactant | 2-(4-bromophenoxy)benzyl bromide | 457.8 g | BrC1=CC=C(OC2=C(CBr)C=CC=C2)C=C1 | C13H10Br2O
reactant | sodium cyanide | 171.0 g | [C-]#N.[Na+]
solvent | water | 160 ml | O | H2O
solvent | ethanol | 44 ml | C(C)O | C2H6O
solvent | water | 1500 ml | O | H2O
solvent | ethanol | 362 ml | C(C)O | C2H6O
product | 2-(4-bromophenoxy)phenyl acetonitrile | BrC1=CC=C(OC2=C(C=CC=C2)CC#N)C=C1 | C14H10BrNO
